US08648069B2
1H-indazole-5-carbaldehyde
To a solution of 5-bromoindazole (5 g, 25.38 mmol) in tetrahydrofuran (100 mL) cooled at −50° C. under argon was added dropwise a solution of 1.6 M n-butyllithium in hexanes (40 mL, 63.44 mmol). Dimethylformamide (3.9 mL, 50.75 mmol) was added, and the mixture was allowed to warm to room temperature and stirred for 15 minutes. The mixture was then quenched with water, extracted with ethyl acetate, preabsorbed onto silica gel and purified by silica gel chromatography eluting with a gradient of 10-30% ethyl acetate in hexanes to afford the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 10.03 (s, 1H) 8.45 (s, 1H) 8.35 (s, 1H) 7.85 (dd, J=8.70, 1.37 Hz, 1H) 7.69 (d, J=8.54 Hz, 1H).

reactant | 5-bromoindazole | 25.38 mmol, 5 g | BrC=1C=C2C=NNC2=CC1 | C7H5BrN2
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | Dimethylformamide | 50.75 mmol, 3.9 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1H-indazole-5-carbaldehyde | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
